US07556908B2
Synthesis of 3-(1-ethyl-1-cyclopentyloxycarbonyl)propyl methacrylate
Synthetic experiment was conducted in the same manner as in Monomer Synthesis Example 1 except that 2-ethyl-2-adamantanol and chloroacetyl chloride were changed to 1-ethyl-1-cyclopentanol and 4-chlorobutyryl chloride respectively, and the above described methacrylic derivative was obtained.

reactant | 2-ethyl-2-adamantanol | C(C)C1(C2CC3CC(CC1C3)C2)O | C12H20O
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | 1-ethyl-1-cyclopentanol | C(C)C1(CCCC1)O | C7H14O
reactant | 4-chlorobutyryl chloride | ClCCCC(=O)Cl | C4H6Cl2O
product | 3-(1-ethyl-1-cyclopentyloxycarbonyl)propyl methacrylate | C(C(=C)C)(=O)OCCCC(=O)OC1(CCCC1)CC | C15H24O4
